US09120804B2
(3,5-dimethoxy-phenyl)-[8-(4-methanesulfonyl-piperazin-1-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-yl]-amine (“C52”)
N-(3,5-dimethoxyphenyl)-8-piperazin-1-yl-[1,2,4]triazolo[1,5-a]pyrazin-2-amine (synthesized as described earlier) was converted into the mesylate by treatment with Methanesulfonylchloride under standard conditions.

reactant | N-(3,5-dimethoxyphenyl)-8-piperazin-1-yl-[1,2,4]triazolo[1,5-a]pyrazin-2-amine | COC=1C=C(C=C(C1)OC)NC1=NN2C(C(=NC=C2)N2CCNCC2)=N1 | C17H21N7O2
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | Methanesulfonylchloride | CS(=O)(=O)Cl | CH3ClO2S
product | (3,5-dimethoxy-phenyl)-[8-(4-methanesulfonyl-piperazin-1-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-yl]-amine | COC=1C=C(C=C(C1)OC)NC1=NN2C(C(=NC=C2)N2CCN(CC2)S(=O)(=O)C)=N1 | C18H23N7O4S
